US06844362B2
5-[(2R)-2-({(2R)-2-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)propyl]-N-(2,6-dimethoxy benzyl)-1H-indole-2-carboxamide
Prepared analogously to 5-[(2R)-2-({(2R)-2-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)propyl]-N-(2-methoxybenzyl)-1H-indole-2-carboxamide using 2,6-dimethoxybenzylamine to give the title compound as a pale yellow foam.

reactant | 5-[(2R)-2-({(2R)-2-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)propyl]-N-(2-methoxybenzyl)-1H-indole-2-carboxamide | [Si](C)(C)(C(C)(C)C)O[C@@H](CN[C@@H](CC=1C=C2C=C(NC2=CC1)C(=O)NCC1=C(C=CC=C1)OC)C)C1=CC(=C(C=C1)O)CO | C35H47N3O5Si
reactant | 2,6-dimethoxybenzylamine | COC1=C(CN)C(=CC=C1)OC | C9H13NO2
product | 5-[(2R)-2-({(2R)-2-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)propyl]-N-(2,6-dimethoxy benzyl)-1H-indole-2-carboxamide | [Si](C)(C)(C(C)(C)C)O[C@@H](CN[C@@H](CC=1C=C2C=C(NC2=CC1)C(=O)NCC1=C(C=CC=C1OC)OC)C)C1=CC(=C(C=C1)O)CO | C36H49N3O6Si
